US06559100B1
Step d: 2-Chloro-3-(4,5-dihydro-3-isoxazolylmethyl)-4-sulfonylmethylbenzoic Acid
At 5° C., a solution of 2.3 g (7 mmol) of methyl 2-chloro-3-(4,5-dihydro-3-isoxazolylmethyl)-4-sulfonylmethylbenzoate in 40 ml of tetrahydrofuran is treated with 0.3 g (13 mmol) of lithium hydroxide. The reaction mixture is taken up in 300 ml of diethyl ether and adjusted to pH 1 using 10% strength aqueous hydrochloric acid. The aqueous phase is extracted with diethyl ether. The combined organic phases are dried over sodium sulfate, filtered and freed from the solvent under reduced pressure. Yield: 1.7 g; 1H NMR, δ [ppm], DMSO-d6; 3.0 (t), 3.3 (s), 4.2 (t), 4.3 (s), 7.8 (d), 8.1 (d).

reactant | methyl 2-chloro-3-(4,5-dihydro-3-isoxazolylmethyl)-4-sulfonylmethylbenzoate | 7 mmol, 2.3 g | ClC1=C(C(=O)OC)C=CC(=C1CC1=NOCC1)C=S(=O)=O | C13H12ClNO5S
reactant | lithium hydroxide | 13 mmol, 0.3 g | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-Chloro-3-(4,5-dihydro-3-isoxazolylmethyl)-4-sulfonylmethylbenzoic Acid | ClC1=C(C(=O)O)C=CC(=C1CC1=NOCC1)C=S(=O)=O | C12H10ClNO5S
